US04405552
EXAMPLE 24: 1-(2,6-DICHLOROBENZOYL)-3-(6-METHYL-5-PHENYL-2-PYRIDYL)UREA
2,6-Dichlorobenzoyl isocyanate (650 mg) was reacted with 6-methyl-5-phenyl-2-pyridylamine (500 mg) in 25 ml of ethyl acetate. A precipitate formed which was filtered and confirmed by NMR as the desired product, 219°-220° C.

reactant | 2,6-Dichlorobenzoyl isocyanate | 650 mg | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
reactant | 6-methyl-5-phenyl-2-pyridylamine | 500 mg | CC1=C(C=CC(=N1)N)C1=CC=CC=C1 | C12H12N2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-DICHLOROBENZOYL)-3-(6-METHYL-5-PHENYL-2-PYRIDYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NC(=C(C=C2)C2=CC=CC=C2)C)C(=CC=C1)Cl | C20H15Cl2N3O2
